US04727081
N-Butyl-2-[[3-[3-(1-piperidinylmethyl) phenoxy]propyl]aminothioxomethyl]-hydrazine carboxamide
The compound is prepared by a method analogous to that of Example 9 from N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carbothioamide and n-butylisocyanate. The analytical values are summarized in Table I.

reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carbothioamide | N1(CCCCC1)CC=1C=C(OCCCNC(=S)NN)C=CC1 | C16H26N4OS
reactant | n-butylisocyanate | C(CCC)N=C=O | C5H9NO
product | N-Butyl-2-[[3-[3-(1-piperidinylmethyl) phenoxy]propyl]aminothioxomethyl]-hydrazine carboxamide | C(CCC)NC(=O)NNC(=S)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C21H35N5O2S
